US06156890
1,4,7,10-Tetraazacyclododecane (=cyclene)
50 g of triethylenetetramine (0.342 mol) is dissolved in 1 l of ethanol and mixed at room temperature with 39 ml of 40% glyoxal in water (0.342 mol). After 20 hours of stirring, the solvent is distilled off in a vacuum, and an orange-colored oil is obtained, which is then taken up in 400 ml of dimethylformamide and is mixed with 82.6 ml (274.8 g=1.026 mol) of 1,2-diiodoethane. After 5 hours of stirring at 40° C., it is concentrated by evaporation in a vacuum, the residue is taken up in 400 ml of ethanol and acidified to pH=3-4 with 37% aqueous hydrochloric acid. 166 ml (171 g=3.42 mol) of hydrazine hydrate is added to this reaction solution at room temperature, and it is heated under reflux for 30 hours. The reaction solution is set at pH=13 with solid potassium hydroxide. The reaction solution is subsequently concentrated by evaporation in a vacuum, taken up once more in 100 ml of ethanol, and the solvent is removed again in a vacuum. The residue is mixed with 25 g of activated carbon and 150 ml of formaldehyde diethylacetal, and it is heated under reflux for some time before the hot solution is filtered through a membrane. After the solution is cooled, the product is isolated by filtration.

reactant | triethylenetetramine | 0.342 mol, 50 g | NCCNCCNCCN | C6H18N4
reactant | glyoxal | 39 ml | C(=O)C=O | C2H2O2
reactant | water | 0.342 mol | O | H2O
reactant | 1,2-diiodoethane | 1.026 mol, 82.6 ml, 274.8 g | ICCI | C2H4I2
reactant | hydrazine hydrate | 3.42 mol, 166 ml, 171 g | O.NN
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | 1 l | C(C)O | C2H6O
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 1,4,7,10-Tetraazacyclododecane | N1CCNCCNCCNCC1 | C8H20N4
